2125-02-07 06:39:00 Physician Resident Progress Note
24 Hour Events:
 CARDIAC ARREST - At [**2125-2-6**] 07:32 PM
   -patient with ectopy and multiple short runs of torsades throughout the
   day that were self resolving. She got about 8mg Mag. Because of long
   run in the afternoon EP recommended lidocaine bolus and q4mag. Around
   8pm team called to bedside, had broken out of torsades after shock from
   nurses. Patient again degenerated into torsades despite 4mg Mag. This
   time went into Asystole and code blue was called. Patient received
   chest compressions, 1 shock, epi, atropine and was started on lidocaine
   gtt after bolus. She was also intubated and had return of spontaneous
   circulation. Aline was placed by anesthesia and CVL was placed in
   femoral vein. Levophed was started for low BP.
   -EP came and recommended isoproteronal to target HR>80
 INVASIVE VENTILATION - START [**2125-2-6**] 08:02 PM
 ARTERIAL LINE - START [**2125-2-6**] 08:15 PM
 MULTI LUMEN - START [**2125-2-6**] 08:15 PM
 EKG - At [**2125-2-6**] 08:32 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,150 units/hour
   Fentanyl - 50 mcg/hour
   Norepinephrine - 0.08 mcg/Kg/min
   Midazolam (Versed) - 2 mg/hour
   Isuprel - 3 mcg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-2-7**] 06:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.8
C (98.2
   HR: 86 (60 - 95) bpm
   BP: 106/57(73) {92/53(67) - 145/74(101)} mmHg
   RR: 16 (15 - 36) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,051 mL
                                                                    689 mL
   PO:
                                                                    550 mL
             TF:
   IVF:
                                                                    501 mL
                                                                    689 mL
   Blood products:
   Total out:
                                                                  1,270 mL
                                                                    500 mL
   Urine:
                                                                  1,270 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -219 mL
                                                                    189 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 4,243 (4,243 - 4,243) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   PIP: 27 cmH2O
   Plateau: 23 cmH2O
   SpO2: 100%
   ABG: 7.43/29/162/25/-3
   Ve: 7.6 L/min
   PaO2 / FiO2: 324
   Physical Examination
   GENERAL: Elderly woman in NAD. Intubated and sedated. Mood, affect
   appropriate.
   HEENT: NCAT. Sclera anicteric. EOMI. Conjunctiva were pink, no pallor
   or cyanosis of the oral mucosa. No xanthalesma.
   NECK: Supple with nonelevated JVP
   CARDIAC: PMI located in 5th intercostal space, midclavicular line. RR,
   normal S1, S2. 2/6 systolic murmur at LLSB and at apex. No thrills,
   lifts. No S3 or S4.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. crackles at both bases.
   ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   EXTREMITIES: No edema. No femoral bruits.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   Labs / Radiology
   429 K/uL
   12.4 g/dL
   106 mg/dL
   1.5 mg/dL
   25 mEq/L
   3.6 mEq/L
   20 mg/dL
   101 mEq/L
   138 mEq/L
   37.6 %
   15.0 K/uL
        [image002.jpg]
                             [**2125-2-6**]  04:27 PM
                             [**2125-2-6**]  08:12 PM
                             [**2125-2-6**]  11:54 PM
                             [**2125-2-7**]  04:25 AM
                             [**2125-2-7**]  04:55 AM
   WBC
   15.0
   Hct
   37.6
   Plt
   429
   Cr
   1.5
   TropT
   0.02
   TCO2
   21
   21
   20
   Glucose
   106
   Other labs: PT / PTT / INR:20.3/150.0/1.9, CK / CKMB /
   Troponin-T:60//0.02, Lactic Acid:1.9 mmol/L, Ca++:9.3 mg/dL, Mg++:5.0
   mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   76-year-old woman with history of T2DM, hypertension, hyperlipidemia,
   and CVA on warfarin was admitted to the CCU with torsade de pointes
   after disopyramide initiation and now s/p cardiac arrest in the setting
   of sustained VT.
   s/p Code Blue and Intubation
   Patient had episode of torsades that degenerated into VT last night and
   now stable on levophed and isoproterenol.
   - continue isoproterenol to target HR > 80 and carvedilol to increase
   membrane stability and decrease PVCs
   - wean levophed
   - obtain repeat ECG
   - will need to pull femoral line and place right IJ or subclavian line
   - wean sedation and extubate as soon as possible after right IJ line
   placement
   Torsades
   Patient started on disopyramide on saturday, and torsades is a known
   complication of this medication. Last dose of disopyramide was on [**2-6**]
   AM. Half life of disopyramide is 4-8 hours; so would expect
   disopyramide to be metabolized and at minimal concentrations within 24
   hours of last dose. Patient now back in sinus.
   - daily ECGs
   - continue magnesium q4h
   - continue to hold disopyramide
   - if torsades continues, recommend magnesium push, consideration of
   lidocaine
   - monitor on telemetry
   - appreciate EP recs
   Atrial fibrillation:
   New onset, with rapid ventricular rate, and patient now in sinus. Has
   been asymptomatic.
   - telemetry
   - continue carvedilol
   - heparin gtt pending breast biopsy and plan for cath and MVR
   - hold coumadin until all procedures are organized or done.
   - IV metoprolol or diltiazem as needed for rapid rates
   [**Last Name (un) 2406**]
   Cr 1.5 from baseline of 1.1. Likely to poor forward secondary to afib
   with RVR.
   - hold losartan and triamterene-HCTZ
   - control RVR as above
   - trend renal labs
   - renally dose meds as appropriate
   .
   Rheumatic Heart disease:
   This was diagnosed on this admission via ECHO. patient needs MV
   replacement and tricuspid repair per CT surgery. They will do this
   pending preop work up, including breast biopsy and cardiac
   catherization
   - Cardiac Surgery is following
   - heparin for now
   - will clarify if surgery will be inpatient this admission or as
   outpatient.
   Breast Mass: as seen on recent mammogram
   - patient on heparin gtt here, will try to get breast biopsy as
   inpatient. This was planned for [**2-7**] but will be delayed in the acute
   setting.
   - will call breast imaging to rearrange this after clarifyig that that
   is should be delayed.
   H/o CVA: holding home warfarin, on heparin gtt for now
   - will restart warfarin on discharge for both CVA and afib
   Diabetes Mellitus Type 2:
   - hold oral hypoglycemics
   - insulin s.s.
   HTN: Patient has a history of hypertension, although currently on
   levophed after the cardiac arrest.
   - holding anti-hypertensives
   - will restart anti-hypertensives as needed
   - wean levophed
   Fluid overload: Likely secondary to MVR. got lasix earlier this
   admission. No history of CHF, EF >55% on ECHO
   - lasix as needed
   ICU Care
   Nutrition: NPO for now
   Glycemic Control: Regular insulin sliding scale
   Lines:  Right femoral line
   - will pull femoral line and place right subclavian line
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   another episode of TdP last night, re-loaded with magnesium, and
   started on Isuprel.  This morning, she is intubated, but no further
   arrhythmia overnight.  QTc still ~540 ms [**First Name (Titles) **] [**Last Name (Titles) **] 90
   Physical Examination
   Intubated, sedated, responsive
   Loud MR murmur at apex
   Lungs clear
   No edema
   Warm extremities
   Medical Decision Making
   - femoral line out, place RIK triple-lumen
   - hold [**Last Name (un) 284**]
   - continue MgSO4 and Isuprel
   - wean off norepinephrine
   - extubate later today
   - breast biopsy, and (if negative for CA), cath for preop MVR/TV repair
   - eventually
   Cardiology Teaching Physician Note
   [**Name9 (PRE) **] Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 3671**], MD
   on:[**2125-2-7**] 09:11 ------

2125-02-08 06:05:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2125-2-7**] 09:00 AM
 EKG - At [**2125-2-7**] 02:00 PM
 MULTI LUMEN - STOP [**2125-2-7**] 04:30 PM
 INVASIVE VENTILATION - STOP [**2125-2-7**] 04:37 PM
   Weaned off levophed
   Having increased ectopy, NSVT around noon then developed SVT HR 160s
   down to 130s c/w afib/flutter. Isoproterenol stopped.
   Started metoprolol 12.5 [**Hospital1 **] then uptitrated to 25 TID as BP tolerated
   Extubated
   Discontinued Mg for 5
   Decreased oxygen sats and volume overloaded on exam and CXR. Given
   lasix 20 IV x 1 with decreased O2 requirement
   S: Ribs sore. No CP, SOB, lightheadedness, palpitations.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2125-2-7**] 12:00 PM
   Metoprolol - [**2125-2-7**] 04:30 PM
   Furosemide (Lasix) - [**2125-2-7**] 10:50 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-2-8**] 06:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.2
C (99
   HR: 116 (81 - 135) bpm
   BP: 102/64(76) {85/44(57) - 158/89(107)} mmHg
   RR: 22 (16 - 27) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  2,387 mL
                                                                    110 mL
   PO:
                                                                    630 mL
             TF:
   IVF:
                                                                  1,637 mL
                                                                    110 mL
   Blood products:
   Total out:
                                                                    836 mL
                                                                    450 mL
   Urine:
                                                                    836 mL
                                                                    450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,551 mL
                                                                   -340 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, Aerosol-cool
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 441 (441 - 441) mL
   PS : 5 cmH2O
   RR (Set): 16
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 5%
   PIP: 10 cmH2O
   Plateau: 17 cmH2O
   SpO2: 98%
   ABG: 7.42/33/113/23/-1
   Ve: 3.9 L/min
   PaO2 / FiO2: 2,260
   Physical Examination
   GENERAL: Elderly woman alert and in NAD
    HEENT: NCAT. Sclera anicteric. EOMI. Conjunctiva were pink, no pallor
   or cyanosis of the oral mucosa. No xanthalesma.
   NECK: Supple with JVP ~8cm
   CARDIAC: PMI located in 5th intercostal space, midclavicular line. RR,
   normal S1, S2. no mrg
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. Faint crackles at L base.
   ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   EXTREMITIES: No edema. WWP femoral bruits.
   Labs / Radiology
   308 K/uL
   11.6 g/dL
   87 mg/dL
   1.3 mg/dL
   23 mEq/L
   4.0 mEq/L
   17 mg/dL
   104 mEq/L
   137 mEq/L
   35.5 %
   12.7 K/uL
        [image002.jpg]
                             [**2125-2-6**]  04:27 PM
                             [**2125-2-6**]  08:12 PM
                             [**2125-2-6**]  11:54 PM
                             [**2125-2-7**]  04:25 AM
                             [**2125-2-7**]  04:55 AM
                             [**2125-2-7**]  04:34 PM
                             [**2125-2-8**]  04:05 AM
   WBC
   15.0
   12.7
   Hct
   37.6
   35.5
   Plt
   429
   308
   Cr
   1.5
   1.3
   1.3
   TropT
   0.02
   TCO2
   21
   21
   20
   22
   Glucose
   106
   246
   87
   Other labs: PT / PTT / INR:25.1/122.6/2.5, CK / CKMB /
   Troponin-T:60//0.02, Lactic Acid:1.9 mmol/L, Albumin:3.6 g/dL, Ca++:8.2
   mg/dL, Mg++:3.9 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   76-year-old woman with history of T2DM, hypertension, hyperlipidemia,
   and CVA on warfarin was admitted to the CCU with torsade de pointes
   after disopyramide initiation and now s/p cardiac arrest in the setting
   of sustained VT.
   s/p Code Blue and Intubation
   Patient had episode of torsades that degenerated into VT last night and
   now stable on levophed and isoproterenol.
   - continue isoproterenol to target HR > 80 and carvedilol to increase
   membrane stability and decrease PVCs
   - wean levophed
   - obtain repeat ECG
   - will need to pull femoral line and place right IJ or subclavian line
   - wean sedation and extubate as soon as possible after right IJ line
   placement
   Torsades
   Patient started on disopyramide on saturday, and torsades is a known
   complication of this medication. Last dose of disopyramide was on [**2-6**]
   AM. Half life of disopyramide is 4-8 hours; so would expect
   disopyramide to be metabolized and at minimal concentrations within 24
   hours of last dose. Patient now back in sinus.
   - daily ECGs
   - continue magnesium q4h
   - continue to hold disopyramide
   - if torsades continues, recommend magnesium push, consideration of
   lidocaine
   - monitor on telemetry
   - appreciate EP recs
   Atrial fibrillation:
   New onset, with rapid ventricular rate, and patient now in sinus. Has
   been asymptomatic.
   - telemetry
   - continue carvedilol
   - heparin gtt pending breast biopsy and plan for cath and MVR
   - hold coumadin until all procedures are organized or done.
   - IV metoprolol or diltiazem as needed for rapid rates
   [**Last Name (un) 2406**]
   Cr 1.5 from baseline of 1.1. Likely to poor forward secondary to afib
   with RVR.
   - hold losartan and triamterene-HCTZ
   - control RVR as above
   - trend renal labs
   - renally dose meds as appropriate
   .
   Rheumatic Heart disease:
   This was diagnosed on this admission via ECHO. patient needs MV
   replacement and tricuspid repair per CT surgery. They will do this
   pending preop work up, including breast biopsy and cardiac
   catherization
   - Cardiac Surgery is following
   - heparin for now
   - will clarify if surgery will be inpatient this admission or as
   outpatient.
   Breast Mass: as seen on recent mammogram
   - patient on heparin gtt here, will try to get breast biopsy as
   inpatient. This was planned for [**2-7**] but will be delayed in the acute
   setting.
   - will call breast imaging to rearrange this after clarifyig that that
   is should be delayed.
   H/o CVA: holding home warfarin, on heparin gtt for now
   - will restart warfarin on discharge for both CVA and afib
   Diabetes Mellitus Type 2:
   - hold oral hypoglycemics
   - insulin s.s.
   HTN: Patient has a history of hypertension, although currently on
   levophed after the cardiac arrest.
   - holding anti-hypertensives
   - will restart anti-hypertensives as needed
   - wean levophed
   Fluid overload: Likely secondary to MVR. got lasix earlier this
   admission. No history of CHF, EF >55% on ECHO
   - lasix as needed
   - consider repeat echo
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2125-2-6**] 07:00 PM
   Arterial Line - [**2125-2-6**] 08:15 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2125-02-09 06:03:00 Physician Resident Progress Note
Chief Complaint: Feels well, no SOB.  Mild to moderate chest pain from
   chest compressions.
   24 Hour Events:
   - Having breast bx in am, given 5mg PO vitamin K for INR 2.5.
   - On standing APAP for chest wall tenderness s/p code.
   - Received metop 5mg IV x2 for HR 140s. No change in HR, but SBP
   transiently to 80s.
   - Metoprolol increased to 37.5mg TID and started digoxin for rapid SVT
   (atach vs afib).
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 800 units/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2125-2-8**] 06:30 AM
   Lansoprazole (Prevacid) - [**2125-2-8**] 08:00 AM
   Metoprolol - [**2125-2-8**] 06:50 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-2-9**] 06:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.6
C (97.8
   HR: 125 (114 - 132) bpm
   BP: 109/58(71) {83/48(64) - 111/86(91)} mmHg
   RR: 19 (19 - 34) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                    726 mL
                                                                    228 mL
   PO:
                                                                    480 mL
                                                                    180 mL
   TF:
   IVF:
                                                                    246 mL
                                                                     48 mL
   Blood products:
   Total out:
                                                                  2,020 mL
                                                                    280 mL
   Urine:
                                                                  2,020 mL
                                                                    280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,294 mL
                                                                    -52 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///27/
   Physical Examination
   GENERAL: Elderly woman alert and in NAD
    HEENT: NCAT. Sclera anicteric. EOMI. Conjunctiva were pink, no pallor
   or cyanosis of the oral mucosa. No xanthalesma.
   NECK: Supple with JVP ~8cm
   CARDIAC: PMI located in 5th intercostal space, midclavicular line.
   Irreguar and tachy, normal S1, S2. holosystolic mumur
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. Crackles at bases.
   ABDOMEN: Distended. Soft. No HSM or tenderness. Abd aorta not enlarged
   by palpation. No abdominial bruits.
   EXTREMITIES: No edema. WWP femoral bruits.
   Labs / Radiology
   317 K/uL
   13.0 g/dL
   119 mg/dL
   1.4 mg/dL
   27 mEq/L
   4.2 mEq/L
   19 mg/dL
   100 mEq/L
   134 mEq/L
   40.4 %
   11.4 K/uL
        [image002.jpg]
                             [**2125-2-6**]  04:27 PM
                             [**2125-2-6**]  08:12 PM
                             [**2125-2-6**]  11:54 PM
                             [**2125-2-7**]  04:25 AM
                             [**2125-2-7**]  04:55 AM
                             [**2125-2-7**]  04:34 PM
                             [**2125-2-8**]  04:05 AM
                             [**2125-2-9**]  03:15 AM
   WBC
   15.0
   12.7
   11.4
   Hct
   37.6
   35.5
   40.4
   Plt
   429
   308
   317
   Cr
   1.5
   1.3
   1.3
   1.4
   TropT
   0.02
   TCO2
   21
   21
   20
   22
   Glucose
   106
   246
   0
   119
   Other labs: PT / PTT / INR:18.2/48.2/1.7, CK / CKMB /
   Troponin-T:60//0.02, Lactic Acid:1.9 mmol/L, Albumin:3.6 g/dL, Ca++:8.6
   mg/dL, Mg++:2.7 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   76-year-old woman with history of T2DM, hypertension, hyperlipidemia,
   and CVA on warfarin was admitted to the CCU with torsade de pointes
   after disopyramide initiation and now s/p cardiac arrest in the setting
   of sustained VT.
   Torsades
   From disopyrimide which is washing out.
   - avoid QT prolonging agents
   - daily EKG
   - keep magnesium high normal
   Atrial fibrillation:
   High heart rates and marginal BP.
   - uptitrate metoprolol as tolerated
   - added digoxin
   - hold anticoagulation for anticipation for procedures
   - possible pulm isolation and maze during surgery
   Rheumatic heart disease with 3+MR:
   Dilated left atrium.  Presence of CHF and afib warrents valve repair.
   - Anticipate CT surgery
   - need cath before surgery
   - CHF resulting from MR: keep even today
   Breast calcifications:
   Anticipate breast biospy today.
   [**Last Name (un) 2406**]
   - continue to monitor closely with diuresis
   .
   H/o CVA:
   - asa
   Diabetes Mellitus Type 2:
   - hold oral hypoglycemics
   - insulin s.s.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2125-2-8**] 03:38 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   Feels better.  Nausea is gone, post-CPR ribcage pain also better.  No
   dyspnea or precordial pain.
   Physical Examination
   JVP flat
   irregular tachycardia, (+)faint MR murmur
   lungs clear
   abdomen nontender
   no pedal edema
   Medical Decision Making
   - breast biopsy today
   - start digoxin for HR control, give small doses of IV diltiazem, as BP
   tolerates
   - tentatively plan for coronary angiography on Monday
   - surgery later next week, or (if hemodynamics stabilize) - as
   outpatient in the very near future
   - resume IV heparin following biopsy
   - no warfarin for now given upcoming procedures
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 3671**], MD
   on:[**2125-2-9**] 09:07 ------

2125-02-10 06:19:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 OR SENT - At [**2125-2-9**] 12:00 PM
   [**Hospital Ward Name 364**] 4 for beast biopsy left vai [**Name6 (MD) 4954**] with RN at 1200
 OR RECEIVED - At [**2125-2-9**] 03:30 PM
   Return from breast biopsy
   -had breast bx
   -started dilt with improved rate control
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 900 units/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2125-2-9**] 08:30 AM
   Diltiazem - [**2125-2-9**] 04:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-2-10**] 06:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.7
C (98
   HR: 110 (91 - 135) bpm
   BP: 101/58(68) {91/33(44) - 119/86(91)} mmHg
   RR: 21 (19 - 26) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  1,046 mL
                                                                     57 mL
   PO:
                                                                    930 mL
             TF:
   IVF:
                                                                    116 mL
                                                                     57 mL
   Blood products:
   Total out:
                                                                    750 mL
                                                                    140 mL
   Urine:
                                                                    750 mL
                                                                    140 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    296 mL
                                                                    -83 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ////
   Physical Examination
   GENERAL: Elderly woman alert and in NAD
    HEENT: NCAT. Sclera anicteric. EOMI. Conjunctiva were pink, no pallor
   or cyanosis of the oral mucosa. No xanthalesma.
   NECK: Supple with JVP ~8cm
   CARDIAC: PMI located in 5th intercostal space, midclavicular line.
   Irreguar and tachy, normal S1, S2. holosystolic mumur
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. Crackles at bases.
   ABDOMEN: Distended. Soft. No HSM or tenderness. Abd aorta not enlarged
   by palpation. No abdominial bruits.
   EXTREMITIES: No edema. WWP femoral bruits.
   Labs / Radiology
   317 K/uL
   13.0 g/dL
   119 mg/dL
   1.4 mg/dL
   27 mEq/L
   4.2 mEq/L
   19 mg/dL
   100 mEq/L
   134 mEq/L
   40.4 %
   11.4 K/uL
        [image002.jpg]
                             [**2125-2-6**]  04:27 PM
                             [**2125-2-6**]  08:12 PM
                             [**2125-2-6**]  11:54 PM
                             [**2125-2-7**]  04:25 AM
                             [**2125-2-7**]  04:55 AM
                             [**2125-2-7**]  04:34 PM
                             [**2125-2-8**]  04:05 AM
                             [**2125-2-9**]  03:15 AM
   WBC
   15.0
   12.7
   11.4
   Hct
   37.6
   35.5
   40.4
   Plt
   429
   308
   317
   Cr
   1.5
   1.3
   1.3
   1.4
   TropT
   0.02
   TCO2
   21
   21
   20
   22
   Glucose
   106
   246
   0
   119
   Other labs: PT / PTT / INR:14.9/58.8/1.3, CK / CKMB /
   Troponin-T:60//0.02, Lactic Acid:1.9 mmol/L, Albumin:3.6 g/dL, Ca++:8.6
   mg/dL, Mg++:2.7 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   76-year-old woman with history of T2DM, hypertension, hyperlipidemia,
   and CVA on warfarin was admitted to the CCU with torsade de pointes
   after disopyramide initiation and now s/p cardiac arrest in the setting
   of sustained VT.
   Atrial fibrillation: rate controlling, still in RVR.
   - continue diltiazem 60mg QID, goal HR <100
   - 250mL NS bolus this morning
   - no longer on Metoprolol
   - cont digoxin
   - cont hep gtt, hold off on starting coumadin since procedures are
   pending
   - possible pulm isolation and maze during surgery
   - would consider starting amiodarone
   Rheumatic heart disease with 3+MR:
   Dilated left atrium.  Presence of CHF and afib warrents valve repair.
   - Anticipate CT surgery
   - plan for cardiac catherization Monday
   - Goal I/O: even
   Torsades/polymorphic VT
s/p asystolic arrest and intubation now
   extubated. Arrythmia  resolved with disopyrimide washing out.
   - avoid QT prolonging agents
   - daily EKG
   - keep magnesium high normal
   Rib Pains: since CPR earlier this week
   - dedicated rib xrays to evauate for rib fractures
   - tylenol prn
   Breast calcifications:
   - f/u breast biospy pathology
   [**Last Name (un) 2406**]: resolved
   - continue to monitor closely with diuresis
   H/o CVA:
   - asa
   Diabetes Mellitus Type 2:
   - hold oral hypoglycemics
   - insulin s.s.
   ICU Care
   Nutrition: regular
   Glycemic Control:  self controlled
   Lines:
   20 Gauge - [**2125-2-8**] 03:38 PM
   Prophylaxis:
   DVT: heparin
   Communication:  Comments:
   Code status: full
   Disposition:
   ------ Protected Section ------
   Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   [**Hospital Ward Name 364**] 4 for breast biopsy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 900 units/hour
   Other ICU medications:
   Diltiazem - [**2125-2-9**] 04:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-2-10**] 10:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.1
C (97
   HR: 107 (91 - 133) bpm
   BP: 130/66(78) {91/33(44) - 132/84(91)} mmHg
   RR: 26 (19 - 26) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  1,046 mL
                                                                    593 mL
   PO:
                                                                    930 mL
             TF:
   IVF:
                                                                    116 mL
                                                                    593 mL
   Blood products:
   Total out:
                                                                    750 mL
                                                                    500 mL
   Urine:
                                                                    750 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    296 mL
                                                                     93 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///24/
   Labs / Radiology
   12.7 g/dL
   309 K/uL
   87 mg/dL
   1.1 mg/dL
   24 mEq/L
   4.0 mEq/L
   20 mg/dL
   101 mEq/L
   137 mEq/L
   39.0 %
   9.2 K/uL
        [image002.jpg]
                             [**2125-2-6**]  04:27 PM
                             [**2125-2-6**]  08:12 PM
                             [**2125-2-6**]  11:54 PM
                             [**2125-2-7**]  04:25 AM
                             [**2125-2-7**]  04:55 AM
                             [**2125-2-7**]  04:34 PM
                             [**2125-2-8**]  04:05 AM
                             [**2125-2-9**]  03:15 AM
                             [**2125-2-10**]  06:01 AM
   WBC
   15.0
   12.7
   11.4
   9.2
   Hct
   37.6
   35.5
   40.4
   39.0
   Plt
   429
   308
   317
   309
   Cr
   1.5
   1.3
   1.3
   1.4
   1.1
   TropT
   0.02
   TCO2
   21
   21
   20
   22
   Glucose
   106
   246
   0
   119
   87
   Other labs: PT / PTT / INR:15.3/79.5/1.4, CK / CKMB /
   Troponin-T:60//0.02, Lactic Acid:1.9 mmol/L, Albumin:3.6 g/dL, Ca++:8.5
   mg/dL, Mg++:2.3 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
 MITRAL REGURGITATION (MITRAL INSUFFICIENCY)
   Surgery in the next few weeks
   cath tentatively on Monday
 ATRIAL FIBRILLATION (AFIB)
   continue digoxin, advance diltiazem dose
   probably not worth it to rhythm control at this time, as she is largely
   asymptomatic from the standpoint of AF
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   improved back to baseline
 BREAST MASS
   results of biopsy due by Monday AM
 VENTRICULAR TACHYCARDIA, SUSTAINED
   resolved
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2125-2-8**] 03:38 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 3671**], MD
   on:[**2125-2-10**] 10:25 ------